US06476021B1
Synthesis of 2-(3-pyridylmethyl)-3H-pyrido[3,2,1-kl]phenoxazin-3-one
According to Example 1<step 4>, 1,2-dihydro-3H-pyrido[3,2,1-kl]phenoxazin-3-one (1 g) prepared by the procedure described in literature (J. Org. Chem., 24, 1699 (1959)) was reacted with pyridine-3-aldehyde (0.7 g) to obtain the title compound (1.2 g; 88%). The chemical structure thereof is shown below.

reactant | 1,2-dihydro-3H-pyrido[3,2,1-kl]phenoxazin-3-one | 1 g | C1CC(C=2C=CC=C3OC=4C=CC=CC4N1C23)=O | C15H11NO2
reactant | pyridine-3-aldehyde | 0.7 g | N1=CC(=CC=C1)C=O | C6H5NO
product | 2-(3-pyridylmethyl)-3H-pyrido[3,2,1-kl]phenoxazin-3-one | 1.2 g, 88% | N1=CC(=CC=C1)CC=1C(C=2C=CC=C3OC=4C=CC=CC4N(C23)C1)=O | C21H14N2O2
